US04923857
A solution of (5R,6S)-6-[(1R)-1-hydroxyethyl]-7-oxo-3-[(E)-2-{(2S)-pyrrolidin-2-yl]-1-methylethenyl]-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylic acid (0.44 g) in water (30 ml) was adjusted to pH 8.5 with aqueous potassium carbonate at 0° C. and ethyl acetimidate hydrochloride (5.4 g) was added in portions while adjusting around pH 8.5 with addition of aqueous potassium carbonate. After stirring for 15 minutes at pH 8.5, the reaction mixture was washed with a mixture of ethyl acetate and tetrahydrofuran (9:1 V/V, 150 ml), and concentrated in vacuo. The residue was chromatographed on nonionic adsorption resin "Diaion HP-20" (Trademark, made by Mitsubishi Chemical Industries) (80 ml) eluting successively with water (200 ml) and 5% aqueous isopropyl alcohol (200 ml). The fractions containing the desired compound were collected and lyophilized to give (5R,6S)-3-[(E)-2-{(2S) 1-acetimidoyl-pyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylic acid (241 mg).

reactant | (5R,6S)-6-[(1R)-1-hydroxyethyl]-7-oxo-3-[(E)-2-{(2S)-pyrrolidin-2-yl]-1-methylethenyl]-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylic acid | 0.44 g | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)\C(=C\[C@H]1NCCC1)\C | C16H22N2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetimidate hydrochloride | 5.4 g | Cl.C(C)(OCC)=N
solvent | water | 30 ml | O | H2O
product | (5R,6S)-3-[(E)-2-{(2S) 1-acetimidoyl-pyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylic acid | 241 mg | C(C)(=N)N1[C@@H](CCC1)/C=C(\C)/C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)O | C18H25N3O4
